### PR TITLE
feat(NumberTheory/Padics/Complex): add densely normed field and separable space instances

### PR DESCRIPTION
**Pull request by YijunYuan**
Equip the field `ℂ_[p]` of `p`-adic complex numbers and its dense subfield
  `PadicAlgCl p` (the algebraic closure of `ℚ_[p]`) with two further standard
  typeclass instances.

  Main additions:
  * `DenselyNormedField (PadicAlgCl p)`: the norm takes values dense in the
    positive reals. The witness between two given bounds `a < b` is built from an
    `n`-th root `z` of `p` (which exists since `PadicAlgCl p` is algebraically
    closed): choosing `n` so that `(a / b) ^ n < ‖p‖` gives `a / b < ‖z‖ < 1`, and
    some integer power `z ^ m` then has norm strictly between `a` and `b`.
  * `SeparableSpace (PadicAlgCl p)`: the elements algebraic over `ℚ` form a
    countable dense subset. Density follows from continuity of roots — `α` is a
    root of its minimal polynomial `f` over `ℚ_[p]`, and approximating the
    coefficients of `f` by a polynomial `g` over the dense subfield `ℚ` yields a
    root `β` of `g` (hence algebraic over `ℚ`) arbitrarily close to `α`.
  * The corresponding instances `DenselyNormedField ℂ_[p]` and
    `SeparableSpace ℂ_[p]` are then inferred, `ℂ_[p]` being the completion of
    `PadicAlgCl p`.

  Supporting general instance:
  * `DenselyNormedField (UniformSpace.Completion A)` for a densely normed field
    `A` with `CompletableTopField A`, since the norm on the completion extends the
    norm on `A`.

  The existing `NontriviallyNormedField` instances on `PadicAlgCl p` and `ℂ_[p]`
  are simplified to `inferInstance`, as they now follow from the new
  `DenselyNormedField` instances.

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/Complex.lean [hunk 1]
```diff
@@ -118,18 +119,68 @@ instance : RankOne (PadicAlgCl.valued p).v where
...
 
+/-- `PadicAlgCl p` is a densely normed field. -/
+instance denselyNormedField : DenselyNormedField (PadicAlgCl p) where
+  lt_norm_lt a b ha hab := by
+    have hb : 0 < b := ha.trans_lt hab
+    have hp1 : (1 : ℝ) < p := Nat.one_lt_cast.2 hp.out.one_lt
+    have hnorm : ‖(p : PadicAlgCl p)‖ = (p : ℝ)⁻¹ := by
+      rw [← map_natCast (algebraMap ℚ_[p] (PadicAlgCl p)), norm_extends, Padic.norm_p]
+    have hp_pos : 0 < ‖(p : PadicAlgCl p)‖ := hnorm ▸ inv_pos.2 (zero_lt_one.trans hp1)
+    have hp_lt_one : ‖(p : PadicAlgCl p)‖ < 1 :=
```
Comment (pechersky) [inline Mathlib/NumberTheory/Padics/Complex.lean]: I think it makes sense to have these as lemmas for PadicAlgCl, or for any valid extension of Q_p.

File: Mathlib/NumberTheory/Padics/Complex.lean [hunk 2]
```diff
@@ -118,18 +119,68 @@ instance : RankOne (PadicAlgCl.valued p).v where
...
 
 /-- `PadicAlgCl p` has characteristic zero. -/
 instance charZero : CharZero (PadicAlgCl p) :=
   (RingHom.charZero_iff (algebraMap ℚ_[p] (PadicAlgCl p)).injective).mp inferInstance
 
+open Polynomial TopologicalSpace in
+/-- `PadicAlgCl p` is a separable topological space. -/
+instance separableSpace : SeparableSpace (PadicAlgCl p) where
+  exists_countable_dense := by
+    refine ⟨{z : PadicAlgCl p | IsAlgebraic ℚ z}, Algebraic.countable ℚ (PadicAlgCl p),
```
Comment (pechersky) [inline Mathlib/NumberTheory/Padics/Complex.lean]: Maybe factor out this dense result also, can be reused in other places, like wrt maximal unramified extension etc.

File: Mathlib/NumberTheory/Padics/Complex.lean [hunk 3]
```diff
@@ -118,18 +119,68 @@ instance : RankOne (PadicAlgCl.valued p).v where
...
+    have hint : IsIntegral ℚ_[p] α := Algebra.IsIntegral.isIntegral α
+    set f := minpoly ℚ_[p] α
+    have hf : Monic f := minpoly.monic hint
+    have hdense : DenseRange (algebraMap ℚ ℚ_[p]) := Padic.denseRange_ratCast p
+    set n := f.natDegree with hn
+    have hnpos : 0 < n := minpoly.natDegree_pos hint
+    set M := max ‖α‖ 1 with hM
+    have hMpos : 0 < M := lt_of_lt_of_le one_pos (le_max_right _ _)
+    set δ := (ε / M) ^ n / (n + 1) with hδ_def
+    have hδpos : 0 < δ := div_pos (pow_pos (div_pos hε hMpos) n) (by positivity)
```
Comment (pechersky) [inline Mathlib/NumberTheory/Padics/Complex.lean]: Here and elsewhere, where one needs to provide a positivity hypothesis, can you golf to `by positivity` where maximally possible? IMO helps with readability.

Comment (YijunYuan) [reply Mathlib/NumberTheory/Padics/Complex.lean]: Golfed.

File: Mathlib/NumberTheory/Padics/Complex.lean (hunk 1 above)
Comment (YijunYuan) [reply Mathlib/NumberTheory/Padics/Complex.lean]: It seems that currently, there is no code/file for "general extension of Q_p", so I make the following lemma for PadicAlgCl only, and it can be easily generalized.
```lean4
/-- The norm of `p : PadicAlgCl p` is `p⁻¹`. -/
theorem norm_p (p : ℕ) [Fact p.Prime] : ‖(p : PadicAlgCl p)‖ = (p : ℝ)⁻¹ := by
  rw [← map_natCast (algebraMap ℚ_[p] (PadicAlgCl p)), norm_extends, Padic.norm_p]
```

On the other hand, do we really need simple results like `0 < ‖(p : PadicAlgCl p)‖` and `‖(p : PadicAlgCl p)‖ < 1` to be extracted to individual lemmas?

File: Mathlib/NumberTheory/Padics/Complex.lean (hunk 2 above)
Comment (YijunYuan) [reply Mathlib/NumberTheory/Padics/Complex.lean]: This is the best I can do for now ([link](https://github.com/leanprover-community/mathlib4/pull/41957/changes#diff-8795fe4e6ded6ebcabac06e3b1892b7b99c4de925513fca68b7710ff081aee9bR50-R57))
```lean4
open TopologicalSpace in
/-- Every algebraic normed field extension of a complete nontrivially normed nonarchimedean field
with a countable dense subfield is a separable space. -/
theorem Algebra.IsAlgebraic.separableSpace_of_denseRange {K : Type*} [Field K] [Countable K]
    {L : Type*} [NontriviallyNormedField L] [IsUltrametricDist L] [CompleteSpace L]
    [Algebra K L] (hden : DenseRange (algebraMap K L))
    (F : Type*) [NormedField F] [NormedAlgebra L F] [Algebra.IsAlgebraic L F] :
    SeparableSpace F
```
`[IsUltrametricDist L] [CompleteSpace L]` are used to ensure that the norm on the algebraic extension coincides with the spectral norm.

**Comment by riccardobrasca** [comment]
Can you please fix the build?

**Comment by YijunYuan** [comment]
> Can you please fix the build?

I'm in a place with very poor network conditions :cry:, so I will fix it in maybe 2 or 3 days.
